US04548865
Alternate Preparation of Vinyltris(furfuryloxy)silane
To a solution of 86.5 ml. furfuryl alcohol in 200 ml. toluene was slowly added 23 g. sodium metal. An additional 10 ml. furfuryl alcohol was added and the solution was heated to 100° C. with stirring to convert all the sodium. The solution was cooled to ice temperature and 43.5 ml. vinyltrichlorosilane dissolved in 50 ml. toluene was slowly added. After the addition was complete, the mixture was heated at 95° C. for 0.5 hr. The colloidal sodium chloride by-product was extracted with water. The organic phase was filtered and the toluene removed by vacuum evaporation. The residue was distilled at 2 mmHg and the product recovered at 182°-184° C.

reactant | furfuryl alcohol | C(C1=CC=CO1)O | C5H6O2
reactant | sodium | [Na] | Na
reactant | vinyltrichlorosilane | C(=C)[Si](Cl)(Cl)Cl | C2H3Cl3Si
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Vinyltris(furfuryloxy)silane | C(=C)[Si](OCC1=CC=CO1)(OCC1=CC=CO1)OCC1=CC=CO1 | C17H18O6Si
